* C:\Users\ggg5483\Desktop\CMPE-460\IDE\ltspice\heartbeatFilter.asc
V1 N005 0 AC 1
C1 N001 N005 10µ
R1 N001 0 20k
R2 N003 0 1k
R3 N002 N003 1k
C2 N004 0 4.7µ
R4 N004 N002 8.2k
XU1 N001 N003 V+ V- N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 V- 0 0
V3 V+ 0 5
XU2 N004 N007 V+ V- N006 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 0 N007 1k
R6 N006 N007 110k
.ac dec 1000 0.01 100
.lib UniversalOpAmp1.lib
.backanno
.end
