* C:\RIT\IDEgithub\IDE\ltspice\heartbeatFilter.asc
V1 N003 0 AC 1
C1 N001 N003 10µ
R1 N001 0 20k
C2 N002 0 4.7µ
R4 N002 N004 8.2k
V2 V- 0 0
V3 V+ 0 5
XU2 N002 N006 V+ V- N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 0 N006 1k
R6 N005 N006 150k
XU3 N001 N004 V+ V- N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D1 0 N005 D
D2 N005 3V3 D
V4 3V3 0 3.3
.model D D
.lib C:\Users\garre\AppData\Local\LTspice\lib\cmp\standard.dio
.ac dec 1000 0.01 100
.lib UniversalOpAmp1.lib
.backanno
.end
